US09402841B2
Step A: (S)-tert-butyl 3-((3-chloro-7-fluoroisoquinolin-1-yl)amino)pyrrolidine-1-carboxylate
To a solution of 1,3-dichloro-7-fluoroisoquinoline (1 g, 4.6 mmol) in NMP (15 mL) was added (S)-tert-butyl 3-aminopyrrolidine-1-carboxylate (1.72 g, 9.3 mmol) and Et3N (1.4 g, 14 mmol). The reaction mixture was heated at 160° C. for 2 hours. The mixture was subsequently partition between H2O (20 mL) and EtOAc (20 mL). The aqueous phase was extracted with EtOAc (3×20 mL). The organic layers were combined, dried over Na2SO4, and concentrated. The crude product was purified by column chromatography eluting with petroleum ether and ethyl acetate (PE/EA=10:1-5:1 gradient) to give the title compound (1.2 g, 70%). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.26-8.23 (d, J=10.8 Hz, 1H), 7.82-7.80 (dd, J1=8.8 Hz, J2=5.2 Hz, 1H), 7.68-7.67 (d, J=5.6 Hz 1H), 7.63-7.60 (t, J=8.8 Hz, 1H), 7.10 (s, 1H), 4.63-4.53 (m, 1H), 3.70-3.66 (m, 1H), 3.48-3.45 (m, 1H), 3.29-3.26 (m, 1H), 2.23-2.18 (m, 1H), 2.03-1.97 (m, 1H), 1.40 (s, 9H).

reactant | 1,3-dichloro-7-fluoroisoquinoline | 4.6 mmol, 1 g | ClC1=NC(=CC2=CC=C(C=C12)F)Cl | C9H4Cl2FN
reactant | (S)-tert-butyl 3-aminopyrrolidine-1-carboxylate | 9.3 mmol, 1.72 g | N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | Et3N | 14 mmol, 1.4 g | CCN(CC)CC | C6H15N
solvent | NMP | 15 mL | CN1CCCC1=O | C5H9NO
product | (S)-tert-butyl 3-((3-chloro-7-fluoroisoquinolin-1-yl)amino)pyrrolidine-1-carboxylate | 1.2 g, 70% | ClC=1N=C(C2=CC(=CC=C2C1)F)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C18H21ClFN3O2
